US06303620B1
1-{(2R)-2-[N-((2E)-5-Amino-5-methylhex-2-enoyl)-N-methylamino]-3-(2-naphthyl)propionyl}-4-benzylpiperidine-4-carboxylic acid methylamide
4-Benzyl-1-((2R)-2-methylamino-3-(2-naphthyl)propionyl)piperidine-4-carboxylic acid methylamide (360 mg; 0.82 mmole) was coupled to (2E)-5-(tert-butyloxycarbonylamino)-5-methyl-2-hexenoic acid using the same coupling procedure as in step D. Removal of the N-terminal Boc group was performed as in step D but at −10° C. The crude product was purified on a RP-18-Seppak® (5 g; Waters) using a gradient from 0.1% TFA in water/acetonitrile 100/0 to 0.1% TFA in 60/40 water/acetonitrile to afford 306 mg of the title compound as a trifluoroacetate.

reactant | 4-Benzyl-1-((2R)-2-methylamino-3-(2-naphthyl)propionyl)piperidine-4-carboxylic acid methylamide | 0.82 mmole, 360 mg | CNC(=O)C1(CCN(CC1)C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)CC1=CC=CC=C1 | C28H33N3O2
reactant | (2E)-5-(tert-butyloxycarbonylamino)-5-methyl-2-hexenoic acid | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
product | 1-{(2R)-2-[N-((2E)-5-Amino-5-methylhex-2-enoyl)-N-methylamino]-3-(2-naphthyl)propionyl}-4-benzylpiperidine-4-carboxylic acid methylamide | 306 mg | CNC(=O)C1(CCN(CC1)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(\C=C\CC(C)(C)N)=O)=O)CC1=CC=CC=C1 | C35H44N4O3
